US06911562B2
2,4-Dihydroxy acetophenone (76 g, 0.5 mole) was charged in a 1 liter autoclave reactor along with methanol (300 ml), acetic acid (5 ml), and Raney Nickel (15.2 g washed several times with water and water/methanol) and 750 mg of Pd/C. The pH of the system was 5.0. The autoclave was checked for leaks with nitrogen. The autoclave was pressurized to 500 psi with hydrogen and stirred at 70-75° C. up to 8 hrs. During this time 97% of the theoretical value for hydrogen was consumed. The reaction was vented and the contents were filtered through a milipore filter to give a yellow solution. Concentration of this solution in vacuo gave a solid. This solid was crystalized from 1,2-dichloroethane to give 4-ethyl resorcinol in 85% isolated yield. The unreacted 2,4-dihydroxy acetophenone was recovered (−13%) from the reaction mixture and was recycled. The structure of 4-ethyl resorcinol and 2,4-dihydroxy acetophenone were characterized by NMR (see FIG. 1), Gas Chromatography (see FIG. 2), IR (See FIG. 3) and Mass spectroscopy. The mass spectroscopy indicated that the mass was 138.

reactant | 2,4-Dihydroxy acetophenone | 0.5 mole, 76 g | CC(=O)C=1C=CC(=CC1O)O | C8H8O3
reactant | methanol | 300 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Raney Nickel | 15.2 g | [Ni] | Ni
catalyst | Pd/C | 750 mg | [Pd] | Pd
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-ethyl resorcinol | C(C)C1=C(C=C(O)C=C1)O | C8H10O2
